US04140851
5-Cyano-3-N-hydroxy-7-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-pyrrolo[2,3-d]pyrimidin-4-one (4)
5-Cyano-3-N-hydroxy-7-(β-D-ribofuranosyl)pyrrolo[2,3-d]pyrimidin-4-one was dissolved in a mixture of 50 ml of pyridine and 25 ml of acetic anhydride. The solution was allowed to stand at room temperature for 5 hr and evaporated in vacuo to a thick oil. This residue was triturated with 100 ml of ethanol and the mixture was evaporated in vacuo to a solid foam which was again triturated with 100 ml of ethanol and evaporated in vacuo to dryness. The resulting foam was heated at reflux temperature with 100 ml of methanol for 1 hr. The methanol was removed in vacuo and an additional 100 ml of methanol was added and removed in vacuo to furnish a solid foam which was used without further purification.

reactant | 5-Cyano-3-N-hydroxy-7-(β-D-ribofuranosyl)pyrrolo[2,3-d]pyrimidin-4-one | C(#N)C1=CN(C=2N=CN(C(C21)=O)O)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C12H12N4O6
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Cyano-3-N-hydroxy-7-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-pyrrolo[2,3-d]pyrimidin-4-one | C(#N)C1=CN(C=2N=CN(C(C21)=O)O)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O | C18H18N4O9
